US04725688
Pour 1.88 g of optically active (s)-5-n-octyl-2-[4-(6-methyloctyloxy)phenyl]-4,6-dichloro-pyrimidine, 0.4 g of 10% palladium-carbon, 0.55 g of magnesium oxide, 60 ml of ethanol, and 45 ml of water, into a 200 ml flask, then add hydrogen under oil bath conditions at 50° C., until the logical amount of hydrogen has been absorbed. The catalyst is filtered and separated, then ether is extracted. After the ether layer is washed with water and with saturated salt water, and dried, the ether is evaporated. The resultant impure product is repeatedly refined, and 0.9 g of optically active (s)-5-n-octyl-2-[4-(6-methyloctyloxy)phenyl]-pyrimidine is obtained.

reactant | (s)-5-n-octyl-2-[4-(6-methyloctyloxy)phenyl]-4,6-dichloro-pyrimidine | C(CCCCCCC)C=1C(=NC(=NC1Cl)C1=CC=C(C=C1)OCCCCC[C@H](CC)C)Cl | C27H40Cl2N2O
reactant | magnesium oxide | 0.55 g | [O-2].[Mg+2]
reactant | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.4 g | [C].[Pd]
solvent | water | 45 ml | O | H2O
product | (s)-5-n-octyl-2-[4-(6-methyloctyloxy)phenyl]-pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCC[C@H](CC)C | C27H42N2O
